US06194410B1
20 ml of a 50% solution of NH3 in MeOH were added to a solution of 1.20 g (3 mmol) of (3-benzenesulphonyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-ylmethyl)-dimethyl-amine in 30 ml of DMF and stirred at RT for 4 hrs. The reaction solution was evaporated and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (silica gel, CH2Cl2/MeOH 6:1) yielded 0.90 g (78%) of 3-benzenesulphonyl-5-dimethylaminomethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p. 216-218°.

reactant | NH3 | N | H3N
reactant | (3-benzenesulphonyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-ylmethyl)-dimethyl-amine | 3 mmol, 1.20 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)CN(C)C)SC | C16H17ClN4O2S2
solvent | MeOH | CO | CH4O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-dimethylaminomethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.90 g, 78% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)CN(C)C)SC | C16H19N5O2S2
